US06080754
The general synthetic pathway outlined in example 81, step 5, and example 83 have been applied to proper starting materials in the preparation of 3-(4-benzyloxyphenyl)-5-hydroxymethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid, which was reacted with acetic acid anhydride by the general synthetic principles outlined in example 23, step 8, to afford 5-acetoxymethyl-3-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid anhydride as red crystals in 86%. 1H-NMR (DMSO-d6, 300 MHz) δ: 2.17 (s, 3H); 5.22 (s, 2H); 5.67 (s, 2H); 7.19 (d, 2H); 7.32-7.48 (m, 3H); 7.52 (d, 2H); 8.10-8.19 (m, 2H); 8.27 (d, 2H); 8.34 (d, 1H).

reactant | 3-(4-benzyloxyphenyl)-5-hydroxymethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=2N3C1=C(C(=C3C=CC2CO)C(=O)O)C(=O)O | C26H19NO6
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetoxymethyl-3-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid anhydride | C(C)(=O)OCC1=C2N3C(=C4C(=C3C=C1)C(=O)OC4=O)C(=C2)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C28H19NO6
